US07399774B2
6-(5-Oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide
Using a method similar to Intermediate 1, using 6-hydroxy-1-tetralone (5.00 g, 30.8 mmol), 6-chloronicotinamide (4.38 g, 28.0 mmol) and K2CO3 (5.81 g, 42.0 mmol) gives the title compound (5.7 g) as a yellow solid. Mass spectrum (ion spray): m/z=283 (M+1); 1HNMR (DMSO-d6): 8.63 (s, 1H), 8.29 (d, 1H), 8.06 (s, 1H), 7.90 (d, 1H), 7.51 (s, 1H), 7.16 (d, 1H), 7.12 (s, 1H), 7.09 (d, 1H), 2.92 (t, 2H), 2.58 (t, 2H), 2.03 (m, 2H).

reactant | 6-hydroxy-1-tetralone | 30.8 mmol, 5.00 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | 6-chloronicotinamide | 28.0 mmol, 4.38 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 42.0 mmol, 5.81 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-(5-Oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide | 5.7 g | O=C1C=2C=CC(=CC2CCC1)OC1=NC=C(C(=O)N)C=C1 | C16H14N2O3
